US05760032
Ethyl 2-(4-(2-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)acetate (1.0 g) synthesized by a known method such as WO94/06802 was added to 2M hydrochloric acid (24 ml), and the mixture was stirred at 60° C. for 0.5 hour. The reaction mixture was cooled to 0° C. A saturated aqueous sodium hydrogencarbonate solution, chloroform and 3,4-dichlorobenzoyl chloride (0.53 g) were added and the mixture was stirred for 1 hour. The organic layer was taken out and dried over magnesium sulfate. The residue was purified by silica gel column chromatography (developing solvent:ethyl acetate-hexane) and crystallized from diisopropyl ether to give 0.06 g of ethyl 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl)-3-(3,4-dichlorobenzoylamino)propionate.

reactant | Ethyl 2-(4-(2-chlorophenyl)-2-ethyl-9-methyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepin-6-yl)acetate | 1.0 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC)C(=NN2)C)CC(=O)OCC | C21H21ClN4O2S
reactant | hydrochloric acid | 2M, 24 ml | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3,4-dichlorobenzoyl chloride | 0.53 g | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-yl)-3-(3,4-dichlorobenzoylamino)propionate | 0.06 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)C(CC(=O)OCC)NC(C2=CC(=C(C=C2)Cl)Cl)=O)C=CC=C1 | C28H25Cl3N4O4S
